US07589104B2
To a solution of 3-(3-cyano-9H-xanthen-9-yl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (635 mg; 0.877 mmol) in ethanol (10 mL) was added hydroxylamine hydrochloride (183 mg; 2.62 mmol) and potassium carbonate (242 mg; 1.75 mmol), and the mixture was heated to reflux for 16 h. More ammonium hydroxide hydrochloride (183 mg; 2.62 mmol) and potassium carbonate (242 mg; 1.75 mmol) were added, and the mixture was heated to reflux for 24 h. The mixture was allowed to cool to rt, water was added, and the solid was collected by filtration, yielding 402 mg (quant.) of 3-[3-(N-hydroxycarbamimidoyl)-9H-xanthen-9-yl]-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester, 1n. The crude material was used as such in the next reaction.

reactant | 3-(3-cyano-9H-xanthen-9-yl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.877 mmol, 635 mg | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)C2C1=CC=CC=C1OC=1C=C(C=CC21)C#N | C26H28N2O3
reactant | hydroxylamine hydrochloride | 2.62 mmol, 183 mg | Cl.NO
reactant | potassium carbonate | 1.75 mmol, 242 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium hydroxide hydrochloride | 2.62 mmol, 183 mg | Cl.[OH-].[NH4+]
reactant | potassium carbonate | 1.75 mmol, 242 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-[3-(N-hydroxycarbamimidoyl)-9H-xanthen-9-yl]-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 402 mg | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)C2C1=CC=CC=C1OC=1C=C(C=CC21)C(NO)=N | C26H31N3O4
